US07157604B2
A solution of N-(2-fluoro-4-hexanoylphenyl)-2,2-dimethylpropanamide (17.8 g, 60.7 mmol) in methanol (75 mL) was treated successively with K2CO3 (8.4 g, 60.7 mmol) and formaldehyde (37 wt. % solution in water, 5.0 mL, 67 mmol). The mixture was placed under a nitrogen atmosphere, stirred, and heated in an oil bath at 55° C. for 4 hours. After cooling to room temperature, the mixture was diluted with CH2Cl2 (300 mL), dried over MgSO4, and filtered through a pad of silica gel, using more CH2Cl2 (200 mL) to wash the pad. The filtrate and washings were concentrated under vacuum to provide a mixture (19.5 g) of N-[4-(2-butylacryloyl)-2-fluorophenyl]-2,2-dimethylpropanamide, N-{2-fluoro-4-[2-(hydroxymethyl)hexanoyl]phenyl]-2,2-dimethylpropanamide, and N-{2-fluoro-4-[2-(methoxymethyl)hexanoyl]phenyl]-2,2-dimethylpropanamide.

reactant | N-(2-fluoro-4-hexanoylphenyl)-2,2-dimethylpropanamide | 60.7 mmol, 17.8 g | FC1=C(C=CC(=C1)C(CCCCC)=O)NC(C(C)(C)C)=O | C17H24FNO2
reactant | K2CO3 | 60.7 mmol, 8.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | formaldehyde | 67 mmol, 5.0 mL | C=O | CH2O
solvent | methanol | 75 mL | CO | CH4O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(2-butylacryloyl)-2-fluorophenyl]-2,2-dimethylpropanamide | 19.5 g | C(CCC)C(C(=O)C1=CC(=C(C=C1)NC(C(C)(C)C)=O)F)=C | C18H24FNO2
